US04808711
Synthesis of 7-[2-(2-amino-1,3-thiazol-4-yl)-2-carbazoylcarbonylaminoacetamido]-3-[(1,3,4-thiadiazol-2-yl)thiomethyl]-3-cephem-4-carboxylic acid diphenylmethyl ester.dihydrochloride
Methanol (100 ml) was ice-cooled and 2.15 g of phosphorus oxychloride was added dropwise under stirring. To this mixture was added 5.49 g (6.91 mmole) of 7-[2-(2-formylamino-1,3-thiazol-4-yl)-2-(3-formylcarbazoyl)carbonylaminoacetamido]-3-[(1,3,4-thiadiazol-2-yl)thiomethyl]-3-cephem-4-carboxylic acid diphenylmethyl ester obtained in Reference example 57, and the mixture was stirred for 3 hours under ice-cooling.

reactant | phosphorus oxychloride | 2.15 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-[2-(2-formylamino-1,3-thiazol-4-yl)-2-(3-formylcarbazoyl)carbonylaminoacetamido]-3-[(1,3,4-thiadiazol-2-yl)thiomethyl]-3-cephem-4-carboxylic acid diphenylmethyl ester | 6.91 mmole, 5.49 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2NC(C(NC(=O)C(NNC=O)=O)C=2N=C(SC2)NC=O)=O)=O)CSC=2SC=NN2 | C32H27N9O8S4
solvent | Methanol | 100 ml | CO | CH4O
product | 7-[2-(2-amino-1,3-thiazol-4-yl)-2-carbazoylcarbonylaminoacetamido]-3-[(1,3,4-thiadiazol-2-yl)thiomethyl]-3-cephem-4-carboxylic acid diphenylmethyl ester.dihydrochloride | Cl.Cl.C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(CS[C@H]2N1C(C2NC(C(NC(=O)C(NN)=O)C=2N=C(SC2)N)=O)=O)CSC=2SC=NN2 | InChI=1S/C30H27N9O6S4.2ClH/c31-29-34-18(13-47-29)19(35-24(41)25(42)37-32)23(40)36-20-26(43)39-21(17(11-46-27(20)39)12-48-30-38-33-14-49-30)28(44)45-22(15-7-3-1-4-8-15)16-9-5-2-6-10-16;;/h1-10,13-14,19-20,22,27H,11-12,32H2,(H2,31,34)(H,35,41)(H,36,40)(H,37,42);2*1H/t19?,20?,27-;;/m1../s1
